US04968708
3-Butanoyloxymethyl-2-methylimidazo[2,1-b]benzothiazole
In 30 ml of pyridine were heated 3.00 g of 2-methylimidazo[2,1-b]benzothiazole-3-methanol and 5.00 g of butyric anhydride at 100° C. for one hour. The reaction mixture was then evaporated to dryness and the residue was dissolved in ethyl acetate. The solution was washed with water. After drying over Glauber's salt, the ethyl acetate phase was evaporated to dryness under reduced pressure. The residue was dissolved in acetone and a solution of 1.24 g of oxalic acid in acetone was added to the solution. The precipitated crystals were taken out by filtration to give 3.15 g of the title compound.

reactant | 2-methylimidazo[2,1-b]benzothiazole-3-methanol | 3.00 g | CC=1N=C2SC3=C(N2C1CO)C=CC=C3 | C11H10N2OS
reactant | butyric anhydride | 5.00 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 3-Butanoyloxymethyl-2-methylimidazo[2,1-b]benzothiazole | 3.15 g | C(CCC)(=O)OCC1=C(N=C2SC3=C(N21)C=CC=C3)C | C15H16N2O2S
